US04232165
(a) Ethyl 1-methyl-5-nitroimidazol-2-yl-pyruvate
A mixture of 180 parts of a 30 percent strength by weight sodium methylate solution in methanol, 146 parts of diethyl oxalate and 150 parts by volume of ethanol is added in the course of 30 minutes, at 60° C., to a suspension of 141 parts of 1,2-dimethyl-5-nitroimidazole in 250 parts by volume of ethanol. After stirring for one hour at 60° C., the mixture is cooled and the sodium enolate of ethyl 1-methyl-5-nitroimidazol-2-yl-pyruvate is filtered off. The salt is then introduced into 1,300 parts by volume of 3 percent strength by weight hydrochloric acid, whilst stirring. The mixture is stirred for a further half-hour and the product is then filtered off. 190 parts (79% of theory) of ethyl 1-methyl-5-nitroimidazol-2-yl-pyruvate of melting point 141° C. (after recrystallization from ethanol) are obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethanol | C(C)O | C2H6O
reactant | 1,2-dimethyl-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C | C5H7N3O2
solvent | methanol | CO | CH4O
product | Ethyl 1-methyl-5-nitroimidazol-2-yl-pyruvate | CN1C(=NC=C1[N+](=O)[O-])CC(C(=O)OCC)=O | C9H11N3O5
